US06982348B2
To a solution of methyl 4-((acetyloxy)methyl)-1-naphthalenecarboxylate (3.91 g, 15.1 mmol) in methanol (20 ml) was added 1N aqueous sodium hydroxide solution (15.1 ml, 15.1 mmol), and the mixture was stirred at room temperature for 5 min. 1N Hydrochloric acid was added to the reaction solution (20 ml) and the mixture was extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give methyl 4-(hydroxymethyl)-1-naphthalenecarboxylate (2.78 g, 85%).

reactant | methyl 4-((acetyloxy)methyl)-1-naphthalenecarboxylate | 15.1 mmol, 3.91 g | C(C)(=O)OCC1=CC=C(C2=CC=CC=C12)C(=O)OC | C15H14O4
reactant | sodium hydroxide | 15.1 mmol, 1N, 15.1 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | methyl 4-(hydroxymethyl)-1-naphthalenecarboxylate | 2.78 g, 85% | OCC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H12O3
